US07838499B2
Preparation of (3R,4S,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)-2-(4-chloro-3-(4-vinylbenzyl)phenyl)tetrahydro-2H-pyran-2-ol (Intermediate AN)
To a solution of 4-bromo-1-chloro-2-(4-vinylbenzyl)benzene (intermediate AM) (215 mg) in toluene:THF (2:1) (3 mL) at −78° C. was added n-BuLi (0.34 mL, 2.5 M in hexane) dropwise. After 45 min, the above mixture was added dropwise into a pre-cooled (−78° C.) solution of (3R,4S,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxylmethyl)tetrahydro-2H-pyran-2-one (453 mg) in toluene (3 mL). After being stirred for 2.5 h at −78° C., the reaction mixture was quenched by saturated NH4Cl and diluted with ethyl acetate. The organic layer was separated, washed with brine and dried over Na2SO4. Concentration gave the crude product which was purified by chromatography to provide intermediate AN (712 mg) as an oil.

reactant | 4-bromo-1-chloro-2-(4-vinylbenzyl)benzene | 215 mg | BrC1=CC(=C(C=C1)Cl)CC1=CC=C(C=C1)C=C | C15H12BrCl
reactant | n-BuLi | 2.5 M, 0.34 mL | [Li]CCCC
reactant | (3R,4S,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxylmethyl)tetrahydro-2H-pyran-2-one | 453 mg | C(C1=CC=CC=C1)O[C@H]1C(O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)=O | C34H34O6
solvent | toluene THF | 3 mL | C1(=CC=CC=C1)C.C1CCOC1
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | (3R,4S,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)-2-(4-chloro-3-(4-vinylbenzyl)phenyl)tetrahydro-2H-pyran-2-ol | C(C1=CC=CC=C1)O[C@H]1C(O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)(O)C1=CC(=C(C=C1)Cl)CC1=CC=C(C=C1)C=C | C49H47ClO6
